2189-11-27 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2189-11-26**] 09:30 PM
   intubated
 ARTERIAL LINE - START [**2189-11-26**] 09:41 PM
 MULTI LUMEN - START [**2189-11-26**] 09:42 PM
 BLOOD CULTURED - At [**2189-11-26**] 09:45 PM
 EKG - At [**2189-11-26**] 10:18 PM
 BLOOD CULTURED - At [**2189-11-26**] 10:42 PM
 SPUTUM CULTURE - At [**2189-11-27**] 12:23 AM
 TRANSTHORACIC ECHO - At [**2189-11-27**] 05:23 AM
 FEVER - 101.6
F - [**2189-11-26**] 10:14 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-11-26**] 10:44 PM
   Ceftriaxone - [**2189-11-26**] 11:58 PM
   Ampicillin - [**2189-11-27**] 12:12 AM
   Gentamicin - [**2189-11-27**] 12:27 AM
   Metronidazole - [**2189-11-27**] 12:58 AM
   Acyclovir - [**2189-11-27**] 02:08 AM
   Azithromycin - [**2189-11-27**] 03:30 AM
   Infusions:
   Insulin - Regular - 6 units/hour
   Drotrecogin (Xigris) - 24 mcg/Kg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-11-27**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.3
C (99.1
   HR: 120 (107 - 120) bpm
   BP: 132/64(83) {88/50(62) - 140/78(99)} mmHg
   RR: 25 (24 - 30) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 352 (20 - 352)mmHg
   Mixed Venous O2% Sat: 70 - 70
   Total In:
                                                                  2,832 mL
                                                                  5,494 mL
   PO:
   TF:
   IVF:
                                                                  2,557 mL
                                                                  5,494 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                     75 mL
                                                                     56 mL
   Urine:
                                                                     75 mL
                                                                     56 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,757 mL
                                                                  5,438 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (450 - 500) mL
   Vt (Spontaneous): 594 (594 - 594) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   SpO2: 88%
   ABG: 7.16/36/128/11/-15
   Ve: 15 L/min
   PaO2 / FiO2: 128
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   71 K/uL
   11.5 g/dL
   188 mg/dL
   4.8 mg/dL
   11 mEq/L
   4.6 mEq/L
   68 mg/dL
   109 mEq/L
   137 mEq/L
   32.3 %
   11.3 K/uL
        [image002.jpg]
                            [**2189-11-26**]  08:16 PM
                            [**2189-11-26**]  09:47 PM
                            [**2189-11-26**]  09:58 PM
                            [**2189-11-27**]  02:00 AM
                            [**2189-11-27**]  02:05 AM
                            [**2189-11-27**]  04:40 AM
   WBC
   7.4
   11.3
   Hct
   35.2
   32.3
   Plt
   99
   71
   Cr
   5.1
   4.8
   TropT
   1.86
   2.49
   2.96
   TCO2
   10
   11
   14
   Glucose
   205
   188
   Other labs: PT / PTT / INR:19.8/87.2/1.8, CK / CKMB /
   Troponin-T:[**Numeric Identifier 3784**]/187/2.96, ALT / AST:170/387, Alk Phos / T [**Numeric Identifier **]:93/0.9,
   Amylase / Lipase:/53, Differential-Neuts:35.0 %, Band:20.0 %, Lymph:3.0
   %, Mono:10.0 %, Eos:0.0 %, Lactic Acid:4.7 mmol/L, Albumin:2.1 g/dL,
   LDH:1723 IU/L, Ca++:6.0 mg/dL, Mg++:2.2 mg/dL, PO4:7.0 mg/dL
   Assessment and Plan
   64 yo F admitted with hypotension, fever, bandemia, severe acidosis,
   and multiple system organ dysfunction consistent with septic shock.
   1. Sepsis/septic shock: Based on laboratory derangements and SIRS
   criteria, pt with shock likely secondary to sepsis.  Pt with unclear
   source at this time, given absence of WBC in CSF, and unclear if GPC
   seen on initial gram stain at OSH lab, but meninigitis still in
   differential. Clinical picture is concerning for meningococcemia.
   Recent dental procedure raises possibility of anaerobic organism with
   subsequent bacteremia. UA with 11-20 WBC and moderate bacteria but
   nitrite negative. + murmur on exam, unclear if new. Rapid decline <24
   hours.  Covered broadly with ABX pending cultures and final gram stain.
   Imaging reviewed by Radiology here, CT head (noncontrast): negative for
   acute changes; CTA torso: negative for PE, dissection, PNA, free air,
   free fluid. + post-radiation changes (hx of breast ca in the distant
   past).
   - Droplet precautions pending final gram stain and cultures
   - Continue fluid resuscitation, goal CVP 8-12 (although femoral CVL),
   follow UOP
   - Vigileo monitor to help guide fluid resuscitation
   - Titrate Levophed for goal MAP >60-65
   - Broad spectrum abx; CTX, Vanco, Ampicillin (at meningitic doses),
   Acyclovir, and Flagyl for anaerobic coverage
   - Discussed abx regimen with ID
   - Continue steroids (dexamethasone) for possible meningitis
   - Arrange for ECHO as soon as possible for vegetation
   - Consider Xigris cautiously given DIC picture; will wait to see how
   coags stabilize given recent correction with products in the ED, as
   well as waiting 12 hrs from LP to initiate
   - Send urinary legionella Ag
   2. Respiratory failure: Pt is currently overbreathing the vent, likely
   attempting to compensate for severe metabolic acidosis.
   - ARDSnet ventilation
   - Wean FiO2 as tolerated, use PEEP as needed if volume overload becomes
   a problem
   - Serial ABGs
   3. Metabolic acidosis: Profound acidosis in the setting of elevated
   lactate with likely sepsis.
   - Repeat ABG in ICU showing slight improvement
   - Bicarb gtt
   - Tox screens sent: positive for benzos
   4. NSTEMI: Pt with elevated CK and troponin, EKG with non-specific
   changes, consistent with NSTEMI, likely secondary to shock and
   hypoperfusion.
   - Consider ASA if platelets stabilize but holding given possibility of
   Xigris
   - Hold heparin for now; no BB given shock
   - Plan for ECHO, both to evaluate EF and wall motion abnormality as
   well as evaluate for vegetations
   - Follow CK/trop
   5. Acute Renal Failure: Elevated BUN and creatinine.
   - Fluid boluses to keep UOP >30cc/hr
   - Bicarb gtt
   - Renally-dose medications
   6. DIC: Labs with elevated coags, D-dimer, LDH; fibrinogen low at 152.
   No active bleeding at this time. Received 6 units platelets and FFP in
   ED.
   - Treat underlying sepsis
   - Follow DIC labs
   - Check smear
   7. Rhabdomyolysis: Elevated CK at 9002, elevated MB, but index normal.
   Unclear if pt was down for a prolonged period.
   - Start D5W with 3 amps bicarb gtt for renal protection
   - Follow CK
   8. Transaminitis: ALT/AST elevated; normal alk phos and [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], [**First Name3 (LF) **]
   likely related to shock liver.
   - Follow LFTs
   9. Guaiac positive stool: On rectal exam here was guaiac positive, may
   be contaminant from groin line placement. No evidence of active
   bleeding at present. No evidence of gut ischemia on CT a/p from OSH as
   reviewed by rads here.
   - Follow Hct
   - PPI
   10.  Electrolyte abnormalities: Pt found to be hypocalcemic,
   hypomagnesemic.
   - Replete lytes PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-11-26**] 09:00 PM
   Arterial Line - [**2189-11-26**] 09:41 PM
   Multi Lumen - [**2189-11-26**] 09:42 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2189-11-27 10:02:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, fever, acute respiratory
   failure, DIC, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above.
   HPI:
   Patient was given fluids and pressors through the night. Could not
   assess CVP with femoral line but used changes in pulse pressure to
   assess fluid needs. Bicarb infusion started. Given FFP and platelets.
   Started on broad spectrum antibiotics.
   Echo performed. Heart appeared hyperdynamic with preserved LV function.
   Vasopressin added this AM, and Xigris started.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2189-11-26**] 09:30 PM
   intubated
 ARTERIAL LINE - START [**2189-11-26**] 09:41 PM
 MULTI LUMEN - START [**2189-11-26**] 09:42 PM
 BLOOD CULTURED - At [**2189-11-26**] 09:45 PM
 EKG - At [**2189-11-26**] 10:18 PM
 BLOOD CULTURED - At [**2189-11-26**] 10:42 PM
 SPUTUM CULTURE - At [**2189-11-27**] 12:23 AM
 TRANSTHORACIC ECHO - At [**2189-11-27**] 05:23 AM
 FEVER - 101.6
F - [**2189-11-26**] 10:14 PM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-11-26**] 10:44 PM
   Ceftriaxone - [**2189-11-26**] 11:58 PM
   Ampicillin - [**2189-11-27**] 12:12 AM
   Gentamicin - [**2189-11-27**] 12:27 AM
   Acyclovir - [**2189-11-27**] 02:08 AM
   Azithromycin - [**2189-11-27**] 03:30 AM
   Metronidazole - [**2189-11-27**] 07:55 AM
   Infusions:
   Insulin - Regular - 6 units/hour
   Drotrecogin (Xigris) - 24 mcg/Kg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-11-27**] 07:55 AM
   Other medications:
   Azithromycin, Xigris
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-11-27**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.1
C (98.8
   HR: 120 (107 - 120) bpm
   BP: 119/62(79) {88/50(62) - 140/78(99)} mmHg
   RR: 30 (24 - 30) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
   CVP: 352 (20 - 352)mmHg
   Bladder pressure: 19 (19 - 19) mmHg
   Mixed Venous O2% Sat: 70 - 70
   Total In:
                                                                  2,832 mL
                                                                  7,303 mL
   PO:
   TF:
   IVF:
                                                                  2,557 mL
                                                                  7,303 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                     75 mL
                                                                     66 mL
   Urine:
                                                                     75 mL
                                                                     66 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,757 mL
                                                                  7,237 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (450 - 500) mL
   Vt (Spontaneous): 594 (594 - 594) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   SpO2: 88%
   ABG: 7.09/30/117/11/-19
   Ve: 15 L/min
   PaO2 / FiO2: 117
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Anasarca
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema, Profound scleral edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   No(t) Tender: , Obese
   Extremities: Right: 3+ edema, Left: 3+, Cyanosis, No(t) Clubbing,
   Diffuse echymoses
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Cool, No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement.
   Labs / Radiology
   11.5 g/dL
   71 K/uL
   188 mg/dL
   4.8 mg/dL
   11 mEq/L
   4.6 mEq/L
   68 mg/dL
   109 mEq/L
   137 mEq/L
   32.3 %
   11.3 K/uL
        [image002.jpg]
                            [**2189-11-26**]  08:16 PM
                            [**2189-11-26**]  09:47 PM
                            [**2189-11-26**]  09:58 PM
                            [**2189-11-27**]  02:00 AM
                            [**2189-11-27**]  02:05 AM
                            [**2189-11-27**]  04:40 AM
                            [**2189-11-27**]  08:24 AM
   WBC
   7.4
   11.3
   Hct
   35.2
   32.3
   Plt
   99
   71
   Cr
   5.1
   4.8
   TropT
   1.86
   2.49
   2.96
   TCO2
   10
   11
   14
   10
   Glucose
   205
   188
   Other labs: PT / PTT / INR:19.8/87.2/1.8, CK / CKMB /
   Troponin-T:[**Numeric Identifier 3784**]/187/2.96, ALT / AST:170/387, Alk Phos / T Bili:93/0.9,
   Amylase / Lipase:/53, Differential-Neuts:35.0 %, Band:20.0 %, Lymph:3.0
   %, Mono:10.0 %, Eos:0.0 %, Lactic Acid:4.3 mmol/L, Albumin:2.1 g/dL,
   LDH:1723 IU/L, Ca++:6.0 mg/dL, Mg++:2.2 mg/dL, PO4:7.0 mg/dL
   Imaging: CXR: subtle patchy alveolar infiltrates bilaterally
   Assessment and Plan
   ACUTE RESPIRATORY FAILURE
   FEVER
   HYPOTENSION
   DISSEMINATED INTRAVASCULAR COAGULATION
   ACUTE RENAL FAILURE
   ACIDOSIS
   ANEMIA
   Patient with evidence of severe infection with mulitsystem organ
   failure. Patient has profound metabolic acidosis, partly anion gap and
   partly hyperchloremic. Patient is receiving fliuds with bicarbonate. On
   Xigris as well. Appears to have severe tissue damage with elevated CPK
   and probably rhabdo. Multiple bullae with possible skin source -
   concern for strep and staph. Maintain broad spectrum antibiotics.
   Blood pressure somewhat improved. Trying to wean off norepinephrine.
   Will consider placement of internal jugular line to allow removal of
   femoral line. Patient has such diffuse capillary [**Last Name (LF) 3117**], [**First Name3 (LF) **] still be
   intravascularly depleted despite massive volume resuscitation.
   Oxygenation has deteriorated with picture suggestive of ARDS by gas
   exchange, although CXR is not that impressive at this point. Plateau
   pressure is 27. Will go down on FIO2 to 0.8 and reassess PaO2. If it
   drops, will try to increase PEEP to 16. Keep plateau pressure less than
   30. Patient being vented at 8 ml/kg now to get tidal volume that allows
   us to compensate for metabolic acidosis. If that improves, will try to
   reduce tidal volume toward 0.6 ml/kg.
   Patient's acute renal failure suggests the process may have been
   ongoing for several days. She has minimal urine output. Elevated
   Potassium may start to become a problem within next 24 hours; she
   appears to have significant tissue damage with cellular release of
   potassium likely to follow. Acidosis remains an issue with
   contributions from lactate and renal failure.
   Prognosis extremely poor.
   Anemia due likely to overwhelming sepsis. Not at transfusion threshold
   now.
   Should address CPR not indicated with family.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines: Femoral
   20 Gauge - [**2189-11-26**] 09:00 PM
   Arterial Line - [**2189-11-26**] 09:41 PM
   Multi Lumen - [**2189-11-26**] 09:42 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2189-11-28 07:23:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
   - Seen by ID, Renal, Cards
   - D/C Xigris
   - 1pRBC, 1 platelets
   - Calcium repleted
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-11-26**] 10:44 PM
   Ceftriaxone - [**2189-11-26**] 11:58 PM
   Ampicillin - [**2189-11-27**] 12:12 AM
   Gentamicin - [**2189-11-27**] 12:27 AM
   Acyclovir - [**2189-11-27**] 02:08 AM
   Azithromycin - [**2189-11-27**] 03:30 AM
   Metronidazole - [**2189-11-27**] 07:55 AM
   Ceftazidime - [**2189-11-27**] 01:30 PM
   Doxycycline - [**2189-11-28**] 02:00 AM
   Clindamycin - [**2189-11-28**] 04:14 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-11-27**] 07:55 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**2-7**] unresponsiveness
   Flowsheet Data as of  [**2189-11-28**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 112 (104 - 123) bpm
   BP: 86/52(63) {69/42(51) - 164/78(106)} mmHg
   RR: 31 (21 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 32 (24 - 336)mmHg
   Bladder pressure: 19 (19 - 19) mmHg
   Total In:
                                                                 16,234 mL
                                                                  1,684 mL
   PO:
   TF:
   IVF:
                                                                 14,762 mL
                                                                  1,396 mL
   Blood products:
                                                                  1,472 mL
                                                                    288 mL
   Total out:
                                                                    186 mL
                                                                     65 mL
   Urine:
                                                                    186 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 16,048 mL
                                                                  1,619 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 39 cmH2O
   Plateau: 29 cmH2O
   Compliance: 28.2 cmH2O/mL
   SpO2: 98%
   ABG: 7.27/27/82.[**Numeric Identifier 143**]/12/-12
   Ve: 17.1 L/min
   PaO2 / FiO2: 138
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace, Cyanosis
   Skin:  Cool, Rash: multiple bullae in various stages over upper body
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, No(t) Sedated, Tone: Decreased
   Labs / Radiology
   27 K/uL
   9.3 g/dL
   95 mg/dL
   4.5 mg/dL
   12 mEq/L
   4.8 mEq/L
   73 mg/dL
   110 mEq/L
   137 mEq/L
   25.6 %
   10.7 K/uL
        [image002.jpg]
                            [**2189-11-27**]  10:25 AM
                            [**2189-11-27**]  12:15 PM
                            [**2189-11-27**]  02:26 PM
                            [**2189-11-27**]  02:45 PM
                            [**2189-11-27**]  07:39 PM
                            [**2189-11-27**]  09:32 PM
                            [**2189-11-27**]  09:44 PM
                            [**2189-11-27**]  11:53 PM
                            [**2189-11-28**]  03:53 AM
                            [**2189-11-28**]  04:12 AM
   WBC
   5.0
   10.7
   10.7
   Hct
   27.1
   29.6
   25.6
   Plt
   27
   38
   46
   27
   Cr
   4.4
   4.4
   4.5
   TropT
   2.14
   TCO2
   11
   10
   12
   11
   12
   13
   Glucose
   84
   58
   95
   Other labs: PT / PTT / INR:16.5/52.8/1.5, CK / CKMB /
   Troponin-T:[**Numeric Identifier 3817**]/201/2.14, ALT / AST:203/440, Alk Phos / T [**Numeric Identifier **]:96/1.2,
   Amylase / Lipase:/44, Differential-Neuts:78.0 %, Band:11.0 %, Lymph:2.0
   %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:100 mg/dL, Lactic Acid:3.6 mmol/L,
   Albumin:1.4 g/dL, LDH:1899 IU/L, Ca++:5.5 mg/dL, Mg++:1.6 mg/dL,
   PO4:6.9 mg/dL
   Assessment and Plan
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOCALCEMIA (LOW CALCIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   64 yo F admitted with hypotension, fever, bandemia, severe acidosis,
   and multiple system organ dysfunction consistent with septic shock.
   #. Sepsis/septic shock: Clinical picture is concerning for Toxic shock
   syndrome with DIC. Rapid decline <24 hours.   Covered broadly with ABX
   pending cultures and final gram stain. Imaging reviewed by Radiology
   here, CT head (noncontrast): negative for acute changes; CTA torso:
   negative for PE, dissection, PNA, free air, free fluid. +
   post-radiation changes (hx of breast ca in the distant past).  TTE
   negative for vegetations
   - Appears clinically much worse this AM
   - Droplet precautions pending final gram stain and cultures
   - Continue fluid resuscitation, Vigileo monitor to help guide fluid
   resuscitation -> keep <12
   - Titrate Levophed/vasopressin for goal MAP >60-65
   - Appreciate ID recs
   - Broad spectrum abx; CTX, Vanco, Doxycycline, Clindamycin
   - Continue steroids (dexamethasone) for severe septic shock
   - Continue Xigris cautiously given DIC picture; trend coags stabilize
   and d/c if INR>2.5 or platelets <30
   - Surgery consult for possible ischemic amputation.
   #. Respiratory failure: Attempting to ventilate to compensate for
   severe metabolic acidosis.
   - Wean FiO2 as tolerated, use PEEP as needed if volume overload becomes
   a problem
   - Ventilate as needed to attempt to prevent severe acidemia
   - Serial ABGs
   #. Metabolic acidosis: Profound acidosis in the setting of elevated
   lactate with likely sepsis.
   - AM ABG worse than prior
   - Bicarb gtt
   - Tox screens sent: positive for benzos
   #. Acute Renal Failure: Elevated BUN and creatinine.
   - Fluid boluses for BP
   - Bicarb gtt
   - Renal consulted, f/u recs
   #. DIC: Labs with elevated coags, D-dimer, LDH; fibrinogen low at 152.
   No active bleeding at this time. Received 6 units platelets and FFP in
   ED.
   - Treat underlying sepsis
   - Follow DIC labs
   - Check smear
   #. NSTEMI: Pt with elevated CK and troponin, EKG with non-specific
   changes, consistent with NSTEMI, likely secondary to shock and
   hypoperfusion.
   - Monitor Trops
   - Supportive care
   #. Rhabdomyolysis: Elevated CK at 9002, elevated MB, but index normal.
   Unclear if pt was down for a prolonged period.
   - Bicarb as above
   - Follow CK
   - supportive care
   #. Transaminitis: ALT/AST elevated; normal alk phos and [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], [**First Name3 (LF) **]
   likely related to shock liver.
   - Follow LFTs
   #.  Electrolyte abnormalities: Pt found to be hypocalcemic,
   hypomagnesemic.
   - Replete lytes PRN
   ICU Care
   Nutrition: npo
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2189-11-26**] 09:00 PM
   Arterial Line - [**2189-11-26**] 09:41 PM
   Multi Lumen - [**2189-11-26**] 09:42 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2189-11-29 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Contact[**Name (NI) **] the [**Hospital6 3851**] laboratory at [**Telephone/Fax (1) 3852**]- Blood cultures no growth x3, urine culture no growth, spinal
   fluid no growth.
   -Holding off on CT head for now as pt is not currently stable enough
   for transport
   - Bullae on skin continue to grow in size and number
   -ID does not recommend change in ABX at this time
   -Renal states no indication for CVVH or HD at this time. Will medically
   treat for K > 5.9
   -Family states they would like to continue care with any neccessary
   escalations for tomorrow. Will reassess again tomorrow afternoon
   -Cx here still NGTD
   -Following ABG's.
   -Pt needing large amts Calcium repletion- 12gm today
   -Ordered Morphine prn for turns as bullae appear painful and pt BP
   rises when being turned. However, pt not responsive, does not appear in
   pain
   - Bolused a total of 1.5L plus 1L D5W with 3 amps bicarb
   -Trying to wean pressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2189-11-26**] 11:58 PM
   Ampicillin - [**2189-11-27**] 12:12 AM
   Gentamicin - [**2189-11-27**] 12:27 AM
   Acyclovir - [**2189-11-27**] 02:08 AM
   Azithromycin - [**2189-11-27**] 03:30 AM
   Metronidazole - [**2189-11-27**] 07:55 AM
   Vancomycin - [**2189-11-28**] 08:55 AM
   Ceftazidime - [**2189-11-28**] 11:20 AM
   Doxycycline - [**2189-11-29**] 01:54 AM
   Clindamycin - [**2189-11-29**] 03:59 AM
   Infusions:
   Insulin - Regular - 1.5 units/hour
   Vasopressin - 2 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-11-28**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-11-29**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 104 (100 - 109) bpm
   BP: 115/66(81) {78/46(56) - 151/77(101)} mmHg
   RR: 26 (26 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 31 (31 - 33)mmHg
   Total In:
                                                                  7,477 mL
                                                                  2,584 mL
   PO:
   TF:
   IVF:
                                                                  7,189 mL
                                                                  2,584 mL
   Blood products:
                                                                    288 mL
   Total out:
                                                                    118 mL
                                                                     40 mL
   Urine:
                                                                    118 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,359 mL
                                                                  2,544 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 37 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: 7.40/24/123/15/-7
   Ve: 15.2 L/min
   PaO2 / FiO2: 205
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7 K/uL
   8.4 g/dL
   108 mg/dL
   4.9 mg/dL
   15 mEq/L
   4.9 mEq/L
   88 mg/dL
   97 mEq/L
   132 mEq/L
   23.3 %
   12.9 K/uL
        [image002.jpg]
                            [**2189-11-28**]  03:53 AM
                            [**2189-11-28**]  04:12 AM
                            [**2189-11-28**]  08:16 AM
                            [**2189-11-28**]  11:28 AM
                            [**2189-11-28**]  11:48 AM
                            [**2189-11-28**]  04:04 PM
                            [**2189-11-28**]  06:15 PM
                            [**2189-11-28**]  11:44 PM
                            [**2189-11-29**]  12:01 AM
                            [**2189-11-29**]  03:49 AM
   WBC
   10.7
   12.2
   13.5
   13.7
   12.9
   Hct
   25.6
   23.5
   24.3
   23.9
   23.3
   Plt
   27
   16
   9
   8
   7
   Cr
   4.5
   4.7
   5.0
   4.7
   4.9
   TCO2
   13
   12
   11
   13
   15
   Glucose
   95
   108
   93
   87
   108
   Other labs: PT / PTT / INR:14.0/45.6/1.2, CK / CKMB /
   Troponin-T:[**Numeric Identifier 3853**]/201/2.14, ALT / AST:330/693, Alk Phos / T
   [**Numeric Identifier **]:170/1.8, Amylase / Lipase:/44, Differential-Neuts:75.0 %, Band:3.0
   %, Lymph:13.0 %, Mono:9.0 %, Eos:0.0 %, Fibrinogen:100 mg/dL, Lactic
   Acid:4.9 mmol/L, Albumin:1.0 g/dL, LDH:2184 IU/L, Ca++:5.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:8.2 mg/dL
   Assessment and Plan
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOCALCEMIA (LOW CALCIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   64 yo F admitted with hypotension, fever, bandemia, severe acidosis,
   and multiple system organ dysfunction consistent with septic shock.
   #. Sepsis/septic shock: Clinical picture is concerning for Toxic shock
   syndrome with DIC. Rapid decline prior to admission has continued
   overnight.   Covered broadly with ABX pending cultures and final gram
   stain. Imaging reviewed by Radiology here, CT head (noncontrast):
   negative for acute changes; CTA torso: negative for PE, dissection,
   PNA, free air, free fluid. + post-radiation changes (hx of breast ca in
   the distant past).  TTE negative for vegetations. S/P IVIG at 1gm/kg
   yesterday. Xigris discontinued yesterday am [**2-7**] coagulopathy
   - Appears clinically much worse this AM
   - Droplet precautions pending final gram stain and cultures
   - Titrate Levophed/vasopressin for goal MAP >60-65- pt currently
   temporarily off levo for now
   - Appreciate ID recs
   - Broad spectrum abx; Ceftaz, Vanco, Doxycycline, Clindamycin
   #. Hemorrhagic bullae:  Patient with nearly 50% of total surface area
   involved
   - PRN pain meds for turns.
   #. Respiratory failure: Attempting to ventilate to compensate for
   severe metabolic acidosis.
   - Wean FiO2 as tolerated, use PEEP as needed if volume overload becomes
   a problem
   - Ventilate as needed to attempt to prevent severe acidemia
   - Serial ABGs
   #. Metabolic acidosis: Profound acidosis in the setting of elevated
   lactate with likely sepsis and some respiratory compensation
   - 3amp bicarb in 1L D5W at 200cc/hr today
   #. Acute Renal Failure: Elevated BUN and creatinine.   Per renal, not a
   good CVVH or HD candidate at this time.
   - Fluid boluses for BP
   - Renal consulted, f/u recs
   #. DIC: Labs with elevated coags, D-dimer, LDH; fibrinogen low at 100.
   No active bleeding at this time. Received 6 units platelets and FFP in
   ED.
   - Treat underlying sepsis
   - Follow DIC labs
   #. NSTEMI: Pt with elevated CK and troponin, EKG with non-specific
   changes, consistent with NSTEMI, likely secondary to shock and
   hypoperfusion.
   - Monitor Trops
   - Supportive care
   #. Rhabdomyolysis: Elevated CK at [**Numeric Identifier 3823**], elevated MB, but index normal.
   Unclear if pt was down for a prolonged period.
   - Follow CK
   - supportive care
   #. Transaminitis: ALT/AST elevated; normal alk phos and [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], [**First Name3 (LF) **]
   likely related to shock liver.
   - Follow LFTs
   #.  Electrolyte abnormalities: Pt found to be hypocalcemic,
   hypomagnesemic.
   - Replete lytes PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-11-26**] 09:00 PM
   Arterial Line - [**2189-11-26**] 09:41 PM
   Multi Lumen - [**2189-11-26**] 09:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU